US05646273
9.6 g (0.24 mol) of 60% sodium hydride and 150 ml of N,N-dimethylformamide were placed in a container equipped with a stirrer, a reflux condenser and a nitrogen-introducing tube, and the solution was then stirred under the feed of nitrogen. Afterward, 32 g (0.25 mol) of 2,5-dimethyl-5-hexene-3-ol was added dropwise thereto at 20°-30° C. over 1 hour, and the solution was then stirred at the same temperature for 3 hours to prepare a sodium alcoholate solution. Next, 34.6 g (0.2 mol) of 3-nitrophthalonitrile and 150 ml of N,N-dimethylformamide were placed in a container equipped with a stirrer, and the above-mentioned sodium alcoholate solution was then added dropwise at 0° C. or less over 5 hours. After completion of the addition, the temperature of the solution was raised up to a level of 20°-30° C., and the solution was then stirred for 2 hours to bring reaction to an end. The thus obtained reaction solution was poured into 3 l of water and then stirred for 30 minutes, and 500 ml of toluene were added. After stirring for 30 minutes, the solution was allowed to stand to separate a toluene layer. After toluene was distilled off under reduced pressure, recrystallization was carried out from 500 ml of n-hexane to obtain 43.7 g of 3-(2,5-dimethyl-5-hexene-3-oxy)phthalonitrile (yield=86.0%).

reactant | sodium hydride | 0.24 mol, 9.6 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | 2,5-dimethyl-5-hexene-3-ol | 0.25 mol, 32 g | CC(C)C(CC(=C)C)O | C8H16O
reactant | 3-nitrophthalonitrile | 0.2 mol, 34.6 g | [N+](=O)([O-])C1=C(C(C#N)=CC=C1)C#N | C8H3N3O2
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 3 l | O | H2O
product | 3-(2,5-dimethyl-5-hexene-3-oxy)phthalonitrile | 43.7 g, yield=86.0% | CC(C)C(CC(=C)C)OC1=C(C(C#N)=CC=C1)C#N | C16H18N2O
